US05610293
A. Synthesis of 1,4,8,11-Tetra(p-toluenesulfonyl]-1,4,8,11-tetraazaundecane
To a stirred solution of p-toluenesulfonyl chloride (262 g, 1.37 mole) in anhydrous pyridine (600 ml) at 5° C. was added a solution of 1,4,8,11-tetraazaundecane (49.1 g, 0.306 mole) in anhydrous pyridine (200 ml) under a dry argon atmosphere, maintaining the temperature <20° C. The addition required 1 h. The mixture was stirred overnight at room temperature. H2O (1.5 1) was slowly added to the cooled (ice bath) mixture. The resulting oil was dissolved in CH2Cl2, separated from the aqueous layer. The CH2Cl2 layer was washed with 5% HCl and H2O and dried (MgSO4). The solvent was removed in vacuo to give an oil which solidified on standing. The resulting solid was ground to a powder and dried in vacuo to give 186 g (78% yield) of the crude product: 1H NMR (CDCl3) δ1.98 (quint, J=7.3 Hz, 2 H), 2.40 (s, 6 H), 2.42 (s, 6 H), 3.11 (t, J=7.3 Hz, 4 H), 3.17 (s, 8 H), 5.76 (t, J=6.0 Hz, 2 H), 7.29 (m, 8 H), 7.64 (d, J=8.3 Hz, 4 H), 7.75 (d, J=8.3 Hz, 4 H).

reactant | p-toluenesulfonyl chloride | 1.37 mole, 262 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,4,8,11-tetraazaundecane | 0.306 mole, 49.1 g | NCCNCCCNCCN | C7H20N4
reactant | H2O | O | H2O
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1,4,8,11-Tetra(p-toluenesulfonyl]-1,4,8,11-tetraazaundecane | 186 g, 78% yield | C1(=CC=C(C=C1)S(=O)(=O)NCCN(CCCN(CCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C35H44N4O8S4
